US07795288B2
(4-Methoxy-2-methyl-phenyl)-thiourea
The title compound is prepared as described in Example 1 for [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea but using 1-isothiocyanato-4-methoxy-2-methyl-benzene. Title compound: ES-MS: 196.9 [M+H]+; single peak at tR=2.46 min (System 2).

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea | N1(CCCC1)CCOC1=CC=C(C=C1)NC(=O)N | C13H19N3O2
reactant | 1-isothiocyanato-4-methoxy-2-methyl-benzene | N(=C=S)C1=C(C=C(C=C1)OC)C | C9H9NOS
product | (4-Methoxy-2-methyl-phenyl)-thiourea | COC1=CC(=C(C=C1)NC(=S)N)C | C9H12N2OS
